US06977263B2
3-Bromo-4-flurobenzonitrile (3.00 g, 15 mmol), benzyl alcohol (1.71 ml, 16.5 mmol) and THF (40 ml) are combined and treated with 60% sodium hydride in oil (0.66 g, 16.5 mmol). The reaction mixture is heated to reflux under nitrogen for 3 hours. Aqueous workup and chromatographic purification (cyclohexane:dichloromethane, 3:1) yields 4-benzyloxy-3-bromobenzonitrile as a white solid (3.88 g, 13.5 mmol). A portion of this material (2.64 g, 9.16 mmol) in THF (25 ml) is treated with a 1 M solution of borane in THF (18.3 ml, 18.3 mmol). After the exotherm subsides the reaction is refluxed a couple of days under nitrogen. The excess borane is destroyed by the addition of methanol and 4-benzyloxy-3-bromobenzylamine is precipitated as the hydrochloride salt (1.58 g, 4.8 mmol). This material is suspended in dichloromethane (30 ml) and treated successively with triethyl amine (1.68 ml, 12.02 mmol) and di-tert-butyl dicarbonate (1.26 g, 5.77 mmol). The reaction mixture is stirred under nitrogen four hours; aqueous workup and chromatographic purification (ethyl acetate:cyclohexane, 3:7) yields the title compound as a white solid (1.69 g, 4.3 mmol). MS(EI): 394(M+).

reactant | 3-Bromo-4-flurobenzonitrile | 15 mmol, 3.00 g | BrC=1C=C(C#N)C=CC1F | C7H3BrFN
reactant | benzyl alcohol | 16.5 mmol, 1.71 ml | C(C1=CC=CC=C1)O | C7H8O
reactant | sodium hydride | [H-].[Na+]
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | 4-benzyloxy-3-bromobenzonitrile | 13.5 mmol, 3.88 g | C(C1=CC=CC=C1)OC1=C(C=C(C#N)C=C1)Br | C14H10BrNO
